US06992087B2
methyl [(2-aminobutanoyl)amino](cyclopropyl)acetate hydrochloride
Following the procedure for the preparation of methyl (L-alanylamino)(cyclopropyl)acetate hydrochloride but substituting methyl ({2-[(tert-butoxycarbonyl)amino]butanoyl}amino)(cyclopropyl)acetate and making non-critical variations provided the title compound as a solid: 1H NMR (DMSO-d6) δ 0.29-0.40, 0.88-0.94, 1.12, 1.37, 1.75-1.82, 3.57, 3.62-3.79, 8.29.

reactant | methyl (L-alanylamino)(cyclopropyl)acetate hydrochloride | Cl.N[C@@H](C)C(=O)NC(C(=O)OC)C1CC1
reactant | methyl ({2-[(tert-butoxycarbonyl)amino]butanoyl}amino)(cyclopropyl)acetate | C(C)(C)(C)OC(=O)NC(C(=O)NC(C(=O)OC)C1CC1)CC | C15H26N2O5
product | methyl [(2-aminobutanoyl)amino](cyclopropyl)acetate hydrochloride | Cl.NC(C(=O)NC(C(=O)OC)C1CC1)CC | InChI=1S/C10H18N2O3.ClH/c1-3-7(11)9(13)12-8(6-4-5-6)10(14)15-2;/h6-8H,3-5,11H2,1-2H3,(H,12,13);1H
